US08349849B2
6-bromo-2-(heptyloxy)quinoline
To a mixture of 6-bromoquinolin-2-ol (352 mg1.57 mmol) and silver carbonate (863 mg, 3.14 mmol, 2.0 eq.) in toluene (20 mL) was added 1-iodoheptane (355 mg, 1.57 mmol, 1.0 eq.) and stirred for 3 h at 110° C. The reaction mixture was evaporated under reduced pressure to remove most of solvent, then filtered, and washed with ethyl acetate. The filtrate was concentrated to give crude the title compound. The crude product was purified by flash chromatography using PE/EA (20/1) as eluent to give product as a red oil (300 mg, 60%). ESI-MS: 323.8 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ: 7.84-7.83 (m, 2H), 7.70-7.68 (m, 2H), 6.89 (d, 1H), 4.43 (t, 2H), 1.81 (q, 2H), 1.51-1.28 (m, 8H), 0.90 (t, 3H).

reactant | 6-bromoquinolin-2-ol | 57 mmol | BrC=1C=C2C=CC(=NC2=CC1)O | C9H6BrNO
reactant | 1-iodoheptane | 1.57 mmol, 355 mg, 1.0 eq. | ICCCCCCC | C7H15I
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 3.14 mmol, 863 mg, 2.0 eq. | C([O-])([O-])=O.[Ag+2]
product | 6-bromo-2-(heptyloxy)quinoline | BrC=1C=C2C=CC(=NC2=CC1)OCCCCCCC | C16H20BrNO
